US07781438B2
Preparation of 8-Hydroxy-2-methyl-quinoline-5-sulfonic acid
Oleum (18-24% SO3, 20 ml) was added to a solution of 2-methyl-quinolin-8-ol (10 g, 62.8 mmol) in concentrated sulfuric acid (40 ml). After warming to 65° C. for 2 hours, the reaction mixture was poured onto 200 g of crushed ice. The suspension was diluted with acetone (60 ml) and stirred for 10 minutes, whereupon solids were filtered off. After washing with acetone (3×60 ml) and drying under high vacuum, the title compound (14.13 g, 94%) was obtained as a slightly yellowish solid. 1H NMR (400 MHz, d6-DMSO): δ=9.60 (d, J=8.3 Hz, 1H), 8.02-7.94 (m, 2H), 7.29 (d, J=7.7 Hz, 1H), 2.94 (s, 3H). MS (ES+): 240.2 (M+H)+.

reactant | Oleum | 20 ml | OS(=O)(=O)O.O=S(=O)=O
reactant | 2-methyl-quinolin-8-ol | 62.8 mmol, 10 g | CC1=NC2=C(C=CC=C2C=C1)O | C10H9NO
solvent | sulfuric acid | 40 ml | S(O)(O)(=O)=O | H2O4S
solvent | acetone | 60 ml | CC(=O)C | C3H6O
product | 8-Hydroxy-2-methyl-quinoline-5-sulfonic acid | 14.13 g, 94% | OC1=CC=C(C=2C=CC(=NC12)C)S(=O)(=O)O | C10H9NO4S
